US07893074B2
Preparation of 2-(5-bromo-2-chloro-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide
A solution of 5-bromo-2,4-dichloropyrimidine (684 mg, 3.0 mmol) and 2-amino-N-methyl-benzenesulfonamide (559 mg, 3.0 mmol) in N,N-dimethylformamide (10 mL) containing potassium carbonate (830 mg, 6.0 mmol) is stirred at room temperature for 23 hours. Saturated aqueous ammonium chloride is added and the mixture is poured into water and extracted twice with ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue is purified with silica gel column chromatography (n-hexane-ethyl acetate gradient) to afford the title compound as a slightly yellow solid.

reactant | 5-bromo-2,4-dichloropyrimidine | 3.0 mmol, 684 mg | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 2-amino-N-methyl-benzenesulfonamide | 3.0 mmol, 559 mg | NC1=C(C=CC=C1)S(=O)(=O)NC | C7H10N2O2S
reactant | potassium carbonate | 6.0 mmol, 830 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(5-bromo-2-chloro-pyrimidin-4-ylamino)-N-methyl-benzenesulfonamide | BrC=1C(=NC(=NC1)Cl)NC1=C(C=CC=C1)S(=O)(=O)NC | C11H10BrClN4O2S
